US06331538B1
N-Benzyloxy-4-chloro-2-cyclopropylamino-5-fluoro-benzamide
Following the procedure of Example A, 4-chloro-2-cyclopropylamino-5-fluoro-benzoic acid (Example C-3, 2.0 g, 8.7 mmol) was reacted with carbonyldiimidazole (1.7 g, 10.5 mmol), O-benzylhydroxylamine hydrochloride (1.67 g, 10.5 mmol), and triethylamine (1.5 mL, 10.5 mmol) in THF (50 mL) to give 2.92 g of the title compound.

reactant | 4-chloro-2-cyclopropylamino-5-fluoro-benzoic acid | 8.7 mmol, 2.0 g | ClC1=CC(=C(C(=O)O)C=C1F)NC1CC1 | C10H9ClFNO2
reactant | carbonyldiimidazole | 10.5 mmol, 1.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | O-benzylhydroxylamine hydrochloride | 10.5 mmol, 1.67 g | Cl.C(C1=CC=CC=C1)ON
reactant | triethylamine | 10.5 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-Benzyloxy-4-chloro-2-cyclopropylamino-5-fluoro-benzamide | 2.92 g | C(C1=CC=CC=C1)ONC(C1=C(C=C(C(=C1)F)Cl)NC1CC1)=O | C17H16ClFN2O2
